US08058431B2
5) 1-Methyl-2-phenyl-1H-thieno[3,2-d]pyrimidine-4-thione
2.10 g (8.67 mmol) 1-Methyl-2-phenyl-1H-thieno(3,2-d)pyrimidine-4-one and 3.51 g (8.67 mmol) Lawesson's reagent (C14H14O2P2S4, Fluka) were dissolved in 40 ml toluene. The reaction mixture was boiled for 3 h. After evaporation the residue was further purified by column chromatography with silica, eluent dichloromethane/acetone 95/5.

reactant | 1-Methyl-2-phenyl-1H-thieno(3,2-d)pyrimidine-4-one | 8.67 mmol, 2.10 g | CN1C(=NC(C2=C1C=CS2)=O)C2=CC=CC=C2 | C13H10N2OS
reactant | Lawesson's reagent | 8.67 mmol, 3.51 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Methyl-2-phenyl-1H-thieno[3,2-d]pyrimidine-4-thione | CN1C(=NC(C2=C1C=CS2)=S)C2=CC=CC=C2 | C13H10N2S2
